US04238487
A solution of ethyl 2-(4-aminobutyl)benzofuran-6-carboxylate (13.0 g., 0.05 mole), dimethylamine (35 g.), and a catalytic amount of sodium ethoxide (approximately 100 mg.) in ethanol (100 ml.) is heated in a sealed pressure bottle at 65° C. for 18 hours. Evaporation of the solvent provides N,N-dimethyl-2-(4-aminobutyl)benzofuran-6-carboxamide.

reactant | ethyl 2-(4-aminobutyl)benzofuran-6-carboxylate | 0.05 mole, 13.0 g | NCCCCC=1OC2=C(C1)C=CC(=C2)C(=O)OCC | C15H19NO3
reactant | dimethylamine | 35 g | CNC | C2H7N
reactant | sodium ethoxide | approximately 100 mg | [O-]CC.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N,N-dimethyl-2-(4-aminobutyl)benzofuran-6-carboxamide | CN(C(=O)C1=CC2=C(C=C(O2)CCCCN)C=C1)C | C15H20N2O2
